US08623889B2
N-(7-(5-methoxy-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide
To a solution of N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide (200 mg, 0.59 mmol) in dioxane/water (5.0 ml) were added 2-bromo-4-methoxy-1-methylbenzene (100 mg, 0.50 mmol), cesium carbonate (391 mg, 1.2 mmol) and [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (22 mg, 0.03 mmol). It was purged with nitrogen and heated at 130° C. for 30 min under microwave irradiation. The reaction mixture was concentrated, washed with water and extracted with ethyl acetate. It was dried over sodium sulfate, concentrated and purified by pre-HPLC to give the product (36 mg, 18.4%). LCMS (ESI): RT (min)=1.214, M+H+=332.9, method=A; 1H NMR (400 MHz, DMSO-d6) δ 9.17 (s, 1H), 8.49 (s, 1H), 8.00 (s, 1H), 7.90 (d, J=8.8 Hz, 1H), 7.70-7.68 (m, 1H), 7.24 (d, J=8.4 Hz, 1H), 6.91-6.86 (m, 2H), 3.76 (s, 3H), 2.19 (s, 3H), 2.09-2.05 (m, 1H), 0.87-0.81 (m, 4H).

reactant | N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.59 mmol, 200 mg | CC1(OB(OC1(C)C)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C19H23BN2O3
reactant | 2-bromo-4-methoxy-1-methylbenzene | 0.50 mmol, 100 mg | BrC1=C(C=CC(=C1)OC)C | C8H9BrO
reactant | cesium carbonate | 1.2 mmol, 391 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane water | 5.0 ml | O1CCOCC1.O
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.03 mmol, 22 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(7-(5-methoxy-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 36 mg, 18.4% | COC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C21H20N2O2
